US06060508
0.79 g (2.86 mmol) of 2-ethyl-3-methyl-7-(1-diethylamino-2-hydroxyethyl)benzofuran and 50 ml of a 0.1N solution of hydrochloric acid in isopropanol are placed in 100 ml round-bottomed flask. The salt is concentrated under vacuum. 0.29 g of 2-ethyl-3-methyl-7-(1-diethylamino-2-hydroxyethyl)benzofuran hydrochloride is obtained in the form of a white wax.

reactant | 2-ethyl-3-methyl-7-(1-diethylamino-2-hydroxyethyl)benzofuran | 2.86 mmol, 0.79 g | C(C)C=1OC2=C(C1C)C=CC=C2C(CO)N(CC)CC | C17H25NO2
reactant | hydrochloric acid | Cl | ClH
solvent | isopropanol | C(C)(C)O | C3H8O
product | 2-ethyl-3-methyl-7-(1-diethylamino-2-hydroxyethyl)benzofuran hydrochloride | 0.29 g | Cl.C(C)C=1OC2=C(C1C)C=CC=C2C(CO)N(CC)CC | InChI=1S/C17H25NO2.ClH/c1-5-16-12(4)13-9-8-10-14(17(13)20-16)15(11-19)18(6-2)7-3;/h8-10,15,19H,5-7,11H2,1-4H3;1H
